Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Neck pain. Leg weakness. Odynophagia
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This is a ___ yo woman who underwent EGD/EUS with intubation ___ 
followed by anterior neck pain, fever to 101, swelling of her 
neck and ___ weakness. She reportedly has had difficulty with 
intubation in the past and was also difficult to intubate ___. 
She had difficulty breathing with this.  There was gross blood 
in the oropharynx on EGD imaging after the intubation. The EGD 
itself was uncomplicated and normal.  Pt states that she feels 
that the neck swelling/pain/odynophagia are relatively stable 
since yesterday, without notable changes.  Since the procedure, 
she also notes sx of leg weakness, with difficulty lifting legs 
off of bed.  No sensory changes.  Pt feels stable ambulating 
once up, but only c/o leg weakness while in bed.

In the ED VS: 99.4 80 154/79 19 96% on RA. She was given unasyn, 
levofloxacin, tylenol, zofran, and pantoprazole. She was 
evaluated by ENT, with no clear explanation for the air in her 
neck, though she has left vocal cord paralysis and edema in her 
neck. Neurology was consulted for the ___ weakness but they did 
not see her as she is ambulating (but would not lift legs off 
the bed). ERCP was contacted but not did not feel esophageal 
perforation was likely (though there is no explanation for how 
air is in her subcutaneous tissue). 

ROS: 10 point review of systems otherwise negative except as 
noted above.
 
Past Medical History:
Pancreatic cysts
Meningioma, s/p resection ___
Thyroid nodules
Kidney tumor?
GERD
hypertension
hyperlipidemia
allergies
 
Social History:
___
Family History:
Sister: ___ CVA with paralysis
Sister: ___ cancer with Hx of DVT's PE's
Mother: heart disease
Other: DM
 
Physical Exam:
Admission:
VS: T99.1 HR90  BP 164/94 RR18  Sat 95% RA
Gen: Obese female, appears comfortable, speaking full sentences 
without difficulty.
Eye: extra-occular movements intact, pupils equal round, 
reactive to light, sclera anicteric, not injected, no exudates
ENT: mucus membranes moist, no ulcerations or exudates
Neck: Diffuse swelling of neck bilat; pain on palpation B, R>L. 
No carotid bruit. No erythema.
Cardiovascular: regular rate and rhythm, normal s1, s2, no 
murmurs, rubs or gallops
Respiratory: Mild basilar rales B, L>R.  Good AE.
Abd: Obese. Soft, non tender, non distended, no 
heptosplenomegally, bowel sounds present
Extremities: No cyanosis, clubbing, edema, joint swelling
Neurological: Alert and oriented x3, CN II-XII intact, normal 
attention, sensation normal, asterixis absent, speech fluent
Strength ___:  ___ plantar/dorsiflexion B. ___ ileopsoas B.
Integument: Warm, moist, no rash or ulceration  
Psychiatric: appropriate, pleasant, slightly anxious
Hematologic: no cervical or supraclavicular LAD
 
Pertinent Results:
Admission labs:
WBC 10.8/hgb 13.2/hct 40.8/plt 194
BMP: ___
lactate 0.9
ck 189
inr 1.1/ptt 23.2

Discharge:

___ 06:22AM BLOOD WBC-5.5 RBC-3.84* Hgb-11.2* Hct-33.5* 
MCV-87 MCH-29.1 MCHC-33.4 RDW-13.1 Plt ___
___ 06:55AM BLOOD Glucose-138* UreaN-6 Creat-0.7 Na-140 
K-3.7 Cl-106 HCO3-28 AnGap-10
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 

EKG Sinus rhythm. Compared to the previous tracing of ___ 
there is no change. 
  
CXR IMPRESSION: Opacities at both lung bases, which are 
nonspecific, though given the provided history, may represent 
foci of aspiration. Clinical correlation advised. 

PA/LAT Neck soft tissues IMPRESSION: Borderline prevertebral 
soft tissue thickening.

CT Chest IMPRESSION: 
1. Suboptimal evaluation of lower lobe subsegmental pulmonary 
arterial 
branches due to patient respiratory motion. Otherwise, no 
evidence of 
pulmonary embolus. No aortic dissection. 
2. Bilateral lower lobe consolidation, could be due to 
aspiration, pneumonia, and/or atelectasis. Correlate with 
clinical symptoms. 
3. Multiple foci of gas lateral to the right lobe of the thyroid 
may be 
related to recent intubation. Please refer to CT neck report 
from the same 
day for further detail. 

CT Neck IMPRESSION: Foci of soft tissue gas in the right neck as 
described above.  Findings may be secondary to tracheal or 
esophageal injury from recent intubation and endoscopy. Cluster 
of small foci of gas lateral to the right thyroid lobe may 
represent developing abscess, however no enhancing fluid 
collection seen and findings may represent pocket of gas 
collecting in this location. 
Retropharyngeal hypodensity extending C2-C5, may concerning for 
retropharyngeal edema vs. infectious process. 

GASTROGRAFIN SWALLOW IMPRESSION: No evidence of active leak from 
the esophagus.
 
Brief Hospital Course:
___ yo woman with neck pain s/p intubation/EGD/EUS with air in 
neck, fever; appears to be d/t traumatic intubation.  Pt was 
admitted to medicine with ENT and ERCP consults.  ERCP team 
evaluated pt, and did not think the EGD was etiology of pt's 
neck pain and neck emphysema, as pt's endoscopy was 
uncomplicated.  ENT evaluated patient, and felt that considering 
difficult nature of pt's intubation, there was likely 
microperforation leading to the paratracheal emphysema.  
Considering pt's reported fever prior to admission, pt was 
treated initially with Levofloxacin and Unasyn, which was 
tapered to Unasyn without further fevers.  THere was some 
concern that pt may have had an aspiration considering imaging 
(see report section), however considering fever so recently 
after EGD, this was very unlikely to represent an aspiration 
pneumonia.  Pt was monitored on continuous O2 sat, and was 
initially kept strict NPO.  Pt subsequently underwent 
gastrogaffin swallow, which did not show any extravasation; pt 
was advanced to clear diet, which she tolerated well.  ENT 
continued to follow daily.  On initial ENT evaluation, there was 
some concern about possible L vocal cord paralysis, however on 
repeat examination later that evening, the vocal cord was 
mobile.  

At time of admission, pt c/o bilateral leg weakness.  Neuro exam 
was non-focal, and pt was able to ambulate.  Pt's strength 
appeared intact on exam.  ___ was consulted, and pt regained 
strength.  Pt may have been feeling lingering effects of 
anesthesia from her EGD.

Prior to discharge, pt noted that her L front tooth was chipped. 
 On exam, there appeared to be a small linear chip off of the 
biting surface of her L incisor.  Anesthesia evaluated and 
stated that this did not occur during the intubation.  Pt raised 
concern with Patient Relations.

At time of discharge, pt was converted to Augmentin for an 
additional 4 days (8 days total).
.  
Hypertension:  
- resumed home meds once taking po's.  
.  
Hyperlipidemia: resumed statin once taking po's.  
.  
Allergies: resumed singulair once taking po's.  
.  
DISPO: to home today; f/u with PCP and GI.  

 
Medications on Admission:
ACETAMINOPHEN-CODEINE 300 mg-30 mg 2 Tablet(s) by mouth three 
times daily as needed for as needed for pain
ATENOLOL 25 mg by mouth three times a day
ATORVASTATIN 10 mg once a day
ESOMEPRAZOLE MAGNESIUM [NEXIUM] 40 mg once a day
FOLIC ACID 1 mg by mouth
HYDROCHLOROTHIAZIDE 50 mg once a day
MONTELUKAST 10 mg once a day
RANITIDINE 150 mg once a day

 
Discharge Medications:
1. Atenolol 25 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day): as per other provider.  
2. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Nexium 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
4. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO once a day.  
5. Hydrochlorothiazide 50 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO once a 
day: as per other provider.  
8. Tylenol ___ mg Tablet Sig: Two (2) Tablet PO three times a 
day as needed for pain.  
9. Augmentin 500-125 mg Tablet Sig: One (1) Tablet PO every 
eight (8) hours for 4 days.
Disp:*12 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Paratracheal emphysema
# Fever prior to admission

 
Discharge Condition:
stable

 
Discharge Instructions:
You were admitted with swelling in your neck and you were 
treated with antibiotics and you were monitored closely.  Please 
complete a course of antibiotics as prescribed. Please seek 
medical attention if you develop fever, chills, worsened neck 
swelling, pain, or any other concerns.
 
Followup Instructions:
___